Name:  ___.                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
redness and tenderness over IJ access site
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old male with AML, intermediate risk with normal
cytogenetics, NPM1 & FLT3 neg,  s/p induction with 7+3 followed 
by MiDAC consolidation. Admit for redness, warmth, tenderness at 
IJ insertion site of a few days duration. Patient c/o chest 
tightness ___, CT concerning for fungal pneumonia, underwent 
BAL on ___ +aspergillosis.

 
Past Medical History:
Prostatitis in ___ 
Seizure vs. Syncope - ___, holter, MRI/MRA, EEG all negative
Lyme Disease in ___
 
Social History:
___
Family History:
Brother Alive ___ 
Father ___ at ___ Cancer; Diabetes - Unknown Type 
Mother ___ at ___
 
Physical Exam:
VS: Tmax 98.4 110/60 75 18 98% 176.6lbs TBB -1L
PHYSICAL EXAM:
GEN:  WDWN NAD A&Ox4
HEENT:  oropharynx moist. 
CV:  RRR no m/r/g
PULM:  CTA
ABD:  soft, NT -HSM +BS
EXTR:  No edema
SKIN:  R IJ site erythema resolved. no streaking. fibrotic
subcutaneous nodule at IJ line site, no evidence of infection
NEURO:  Grossly nonfocal, alert and oriented 

 
Pertinent Results:
___ 09:00AM BLOOD WBC-13.4* RBC-3.13* Hgb-9.0* Hct-27.5* 
MCV-88 MCH-28.7 MCHC-32.7 RDW-19.5* Plt ___
___ 11:30AM BLOOD WBC-0.2* RBC-2.85* Hgb-8.8* Hct-23.9* 
MCV-84 MCH-30.8 MCHC-36.6* RDW-14.7 Plt Ct-38*#
___ 09:00AM BLOOD Neuts-PND Lymphs-PND Monos-PND Eos-PND 
Baso-PND
___ 11:30AM BLOOD Neuts-0* Bands-0 Lymphs-74* Monos-20* 
Eos-2 Baso-2 Atyps-2* ___ Myelos-0
___ 09:00AM BLOOD Plt ___
___ 09:00AM BLOOD Glucose-136* UreaN-6 Creat-0.9 Na-138 
K-3.9 Cl-102 HCO3-28 AnGap-12
___ 06:14AM BLOOD Glucose-126* UreaN-11 Creat-0.9 Na-136 
K-4.0 Cl-103 HCO3-25 AnGap-12
___ 09:00AM BLOOD ALT-52* AST-44* LD(LDH)-261* AlkPhos-175* 
TotBili-0.2
___ 06:14AM BLOOD ALT-76* AST-35 AlkPhos-137* TotBili-1.0
___ 09:00AM BLOOD TotProt-6.0* Albumin-3.6 Globuln-2.4 
Calcium-9.0 Phos-3.2 Mg-2.2 UricAcd-4.6
___ 06:14AM BLOOD Calcium-8.9 Phos-3.2 Mg-1.___ year old male with AML, intermediate risk with nL
cytogenetics, NPM1 & FLT3 neg. Admit for redness, warmth,
tenderness at IJ insertion site. +aspergillosis PNA.

# AML:  C1D28 miDAC. Counts recovered.  Blasts from end
of last week concerning--recovering marrow vs dz. Diff pending 
from today. Peripheral flow cytometery sent off ___ 
stat,blasts 3-4% on flow. Too soon to determine if relapse but 
no longer neutropenic, and diff improving, so likely secondary 
to slow graft recovery. Will continue to follow up.  Will plan 
to remarrow outpatient at the end of the week pending CBC/diff 
results. Transplant delayed 2weeks secondary to aspergillosis 
infection. Patient started transplant work up, echo WNL, PFT 
diminished likely secondary to infection, may need to repeat. 
Will hold EKG until next week. Transplant tentitively scheduled 
for ___ week.

# aspergillosis pneumonia: Report of pleuritic CP ___hest.  BAL ___, +aspergillosis. Resp culture commensal
resp flora. Has not had any antifungal prophy since had LFT abn
with fluc during induction. Started loading dose vori ___ x 2
doses then decreased to 4mg/kg thereafter, will watch LFTs 
closely outpatient, started to trend up as of ___.  
Voriconazole level pending from ___.
Ordered serum BDG and galactomannan negative. BAL galactomannan
positive. ID following.  To determine if transplant will
need to be delayed further secondary to aspergillosis PNA. Will 
follow up with ID Dr. ___ outpatient on ___ and have repeat 
CT of chest performed prior to appointment. 

# tunneled line cellulitis:   Removed line ___, resolved.  Cx
tip neg. Blood culture neg. d/c vanc/cefepime after 10 days on 
___. 

# pre transplant workup: have completed echo, PFT.  Will order
CXR after this acute time is passed, will plan EKG prior to 
admission for allo.
Pre transplant ID w/u ongoing. Labs ordered.

# Infectious prophylaxis:
- PCP: none
- HSV/VZV: acyclovir

# FEN: low bacterial diet
# Disposition: home today with f/u outpatient on ___ with 
potential BM bx at this time.
# Code status: full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Lorazepam 0.5-1 mg PO Q4H:PRN Anxiety, Insomnia, Nausea 
3. Ciprofloxacin HCl 500 mg PO BID 
4. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Lorazepam 0.5-1 mg PO Q4H:PRN Anxiety, Insomnia, Nausea 
3. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
4. Voriconazole 300 mg PO Q12H 
RX *voriconazole 200 mg 1.5 tablet(s) by mouth every 12 hours 
Disp #*45 Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary:
aspergillosis pneumonia
cellulitis
acute myleogenous leukemia
pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

As you know, you were admitted to ___ for redness and warmth 
over the insertion site of your central venous catheter.  You 
were treated with IV antibiotics and your line was removed. You 
also were diagnosed with aspergillosis pneumonia.  You were 
started on oral antibiotics and will continue this outpatient. 
You will follow up with ___ NP and Dr. ___ outpatient at 
the end of the week.  You will also follow up with Dr. ___, 
___ infectious disease doctor, next week and receive a CT scan 
prior to that appointment.  Please do not hesitate to call with 
any questions or concerns.   
 
Followup Instructions:
___